US04714619
D-Alanine 1-Adamantyl Amide (28)
N-Benzyloxycarbonyl-D-alanine 1-adamantyl amide is hydrogenated by the precedure as described for the isopropyl amide.

reactant | N-Benzyloxycarbonyl-D-alanine 1-adamantyl amide | C12(CC3CC(CC(C1)C3)C2)NC([C@H](NC(=O)OCC2=CC=CC=C2)C)=O | C21H28N2O3
reactant | isopropyl amide | C(C)(C)[NH-]
product | D-Alanine 1-Adamantyl Amide | C12(CC3CC(CC(C1)C3)C2)NC([C@H](N)C)=O | C13H22N2O
